US05952504
(C) 3-Butyryl-4-methanesulfonyloxy-8-methoxy-1,7-naphthyridine
4.93 g of 3-butyryl 8-methoxy-1,7-naphthyridin-4(1H)-one and 4.2 ml of triethylamine were dissolved into 70 ml of dichloromethane, and a solution of methanesulfonyl chloride (1.85 ml) in dichloromethane (10 ml) was added dropwise at a temperature of 0° C. to 5° C. The resulting mixture was stirred for 1 hour at the same temperature. Water was added, and the resulting mixture was extracted with dichloromethan three times, and the organic phase was washed with water and then brine, dried over magnesium sulfate and distilled under reduced pressure. Ether was added to the residue to give 4.61 g (71%) of the titled compound as yellow crystals.

reactant | 3-butyryl 8-methoxy-1,7-naphthyridin-4(1H)-one | 4.93 g | C(CCC)(=O)C1=CNC2=C(N=CC=C2C1=O)OC | C13H14N2O3
reactant | triethylamine | 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.85 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 3-Butyryl-4-methanesulfonyloxy-8-methoxy-1,7-naphthyridine | 4.61 g, 71% | C(CCC)(=O)C=1C=NC2=C(N=CC=C2C1OS(=O)(=O)C)OC | C14H16N2O5S
